US04367238
A solution of 2-methyl-6-phenoxyaniline (19.3 g) in a mixture of conc. hydrochloric acid (17 ml) and water (60 ml), aqueous solution (10 ml) of sodium nitrite (6.7 g) and 42% fluoroboric acid (19 ml) were treated in a similar manner to that of Example 14-(1). The resultant diazonium salt was treated with acetic acid (400 ml) in a similar manner to that of Example 14-(1) to give oily 6-phenoxy-o-cresol (7.5 g).

reactant | 2-methyl-6-phenoxyaniline | 19.3 g | CC1=C(N)C(=CC=C1)OC1=CC=CC=C1 | C13H13NO
reactant | hydrochloric acid | 17 ml | Cl | ClH
reactant | sodium nitrite | 10 ml, 6.7 g | N(=O)[O-].[Na+]
reactant | fluoroboric acid | 19 ml | F[B-](F)(F)F.[H+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
product | 6-phenoxy-o-cresol | 7.5 g | O(C1=CC=CC=C1)C=1C=CC=C(C1O)C | C13H12O2
